US04451463
A solution of 4-(2-propylguanidino)-2-methylthiopyrimidine (1.6 g.) in MeOH (25 ml.) was heated on a steam bath while a solution of sodium metaperiodate (1.6 g.) in water (15 ml.) was added dropwise over 15 minutes. Further sodium metaperiodate in water (10% w/v) was added until analysis by t.l.c. on silica using EtOAc/MeOH 4:1 v/v as eluant showed absence of starting material. The reaction mixture was evaporated in vacuo, and the residue partitioned between methylene chloride and water. The organic phase was worked up to give 4-(2-propylguanidino)-2-methylsulphinylpyrimidine, m.p. 179°-180°.

reactant | 4-(2-propylguanidino)-2-methylthiopyrimidine | 1.6 g | C(CC)N=C(NC1=NC(=NC=C1)SC)N | C9H15N5S
reactant | sodium metaperiodate | 1.6 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | EtOAc MeOH | CCOC(=O)C.CO
solvent | MeOH | 25 ml | CO | CH4O
solvent | water | 15 ml | O | H2O
product | 4-(2-propylguanidino)-2-methylsulphinylpyrimidine | C(CC)N=C(NC1=NC(=NC=C1)S(=O)C)N | C9H15N5OS
